US05576338
4-Tributylstannylpyridine
To a suspension of 4-bromopyridine hydrochloride (1.5 g) in Et2O (20 mL) at -78° C. was added n-BuLi (6.2 mL of a 2.5M solution). After 30 min. the mixture was warmed to -30° C., tributyltin chloride (2.1 mL) was added and the mixture warmed to 0° C. Saturated NH4Cl was added and extracted with Et2O. The organics were washed with H2O, brine, dried (MgSO4) and concentrated. Chromatography (silica gel; EtOAc/hexane (15:85)) provided the title compound as an oil.

reactant | 4-bromopyridine hydrochloride | 1.5 g | Cl.BrC1=CC=NC=C1
reactant | n-BuLi | [Li]CCCC
reactant | tributyltin chloride | 2.1 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | NH4Cl | [NH4+].[Cl-]
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 4-Tributylstannylpyridine | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC | InChI=1S/C5H4N.3C4H9.Sn/c1-2-4-6-5-3-1;3*1-3-4-2;/h2-5H;3*1,3-4H2,2H3;
